US09278964B2
Preparation of (Z)-1-ethyl-3-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (FB54)
The title compound was prepared as described in Example 95 using N-ethyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine (CB25) and (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate (CA50), purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent and isolated as a red solid (0.075 g, 56%).

reactant | N-ethyl-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine | C(C)NCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C19H19F3N4O
reactant | (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H19N3O5S
product | (Z)-1-ethyl-3-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | C(C)N(C(=O)\N=C\1/SCC(N1C1=C(C=CC(=C1)C)C(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C33H33F3N6O3S
